US08557936B2
A mixture of 65.0 g (0.60 mol) of p-cresol, 92.7 g (0.66 mol) of benzoyl chloride, and 6 mL of anhydrous pyridine was refluxed for 1.5 hr and then added to 600 mL of 2% hydrochloric acid. The product was extracted with 2×100 mL of ether, the combined extract was washed by 2% NaOH, then dried over Na2SO4, and evaporated to dryness. Drying the residue in vacuum gave 117 g (92%) of p-tolyl benzoate (bp 127-135° C./25 mm Hg). A mixture of 117 g (0.552 mol) of p-tolyl benzoate and 92.0 (0.689 mol) of AlCl3 was slowly (for ca. 0.5 hr) heated to 120-125° C. This mixture was stirred at this temperature for 1 hr, and then 1000 mL of 2M HCl was added at 0° C. The product was extracted with 3×200 mL of diethyl ether, the combined extract was dried over Na2SO4 and then evaporated to dryness. This procedure gave 116 g (99%) of the title product which was further used without an additional purification.

reactant | p-cresol | 0.60 mol, 65.0 g | C1=CC(=CC=C1O)C | C7H8O
reactant | benzoyl chloride | 0.66 mol, 92.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 600 mL | Cl | ClH
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | p-tolyl benzoate | 117 g, 92% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C | C14H12O2
